US07745630B2
Preparation 61: tert-Butyl 4-{[2-(ethoxyacetyl)hydrazino]carbonyl}piperidine-1-carboxylate
A mixture of 4-hydrazinocarbonyl-piperidine-1-carboxylic acid tert-butyl ester (WO 2000039125, prep 27) (3 g, 12.33 mmol), ethoxyacetic acid (1.28 mL, 13.56 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (2.6 g, 13.56 mmol), 1-hydroxybenzotriazole hydrate (1.83 g, 13.56 mmol) and triethylamine (2.1 mL, 14.8 mmol) in N,N-dimethylformamide (15 mL) was stirred at room temperature for 18 hours. The mixture was concentrated under reduced pressure and the residue was partitioned between ethyl acetate and aqueous sodium carbonate solution. The layers were separated, the organic phase was dried over MgSO4 and evaporated under reduced pressure to provide the title compound as an oil, that crystallised on standing.

reactant | 4-hydrazinocarbonyl-piperidine-1-carboxylic acid tert-butyl ester | 12.33 mmol, 3 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)NN | C11H21N3O3
reactant | ethoxyacetic acid | 13.56 mmol, 1.28 mL | C(C)OCC(=O)O | C4H8O3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 13.56 mmol, 2.6 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 13.56 mmol, 1.83 g | O.ON1N=NC2=C1C=CC=C2
reactant | triethylamine | 14.8 mmol, 2.1 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | tert-Butyl 4-{[2-(ethoxyacetyl)hydrazino]carbonyl}piperidine-1-carboxylate | C(C)OCC(=O)NNC(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C15H27N3O5
